US07696352B2
To a solution of diisopropylamine (1.42 mL, 10 mmol) in THF (10 mL) at 0° C. was added nBuLi (2.5 M, 4.25 mL, 10.6 mmol) dropwise. After stirring at 0° C. for 45 min, a solution of 2-methoxypyridine (0.96 mL, 9.2 mmol) in THF (5 mL) was added, and the mixture was stirred for an additional 1 h before B(OiPr)3 (2.54 mL, 11 mmol) was added. 30 min later, H2O was added to quench the reaction, the THF was removed in vacuo and the aqueous layer was extracted with ether. The aqueous layer was separated, acidified with 48% HBr to pH=4, the resulting precipitates were collected by filtration to yield 2-methoxypyridine-3-ylboronic acid (0.46 g, 40%).

reactant | diisopropylamine | 10 mmol, 1.42 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 10.6 mmol, 2.5 M, 4.25 mL | [Li]CCCC
reactant | 2-methoxypyridine | 9.2 mmol, 0.96 mL | COC1=NC=CC=C1 | C6H7NO
reactant | B(OiPr)3 | 11 mmol, 2.54 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 2-methoxypyridine-3-ylboronic acid | 0.46 g, 40% | COC1=NC=CC=C1B(O)O | C6H8BNO3
